US05532236
g. 8-(2-Methyl-1H-imidazol-1-yl)-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H ,5H)-dione
To a solution of 1 g crude 3-(2-ethoxycarbonylhydrazino)-1-hydroxy-6-(2-methyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxalin-2(1H)-one in 50 ml dry N,N-dimethylformamide was added 1.05 g (~4.0 mmol) triphenylphosphine. Stirring was continued at 130° C. for 17 h followed by evaporation in vacuo. Column chromatography (silica gel; eluent: dichloromethane containing 10% methanol) gave the title compound (0.7 g; 75%). M.p. 375° C. (decomp.).

reactant | 3-(2-ethoxycarbonylhydrazino)-1-hydroxy-6-(2-methyl-1H-imidazol-1-yl)-7-trifluoromethylquinoxalin-2(1H)-one | 1 g | C(C)OC(=O)NNC=1C(N(C2=CC(=C(C=C2N1)N1C(=NC=C1)C)C(F)(F)F)O)=O | C16H15F3N6O4
reactant | triphenylphosphine | ~4.0 mmol, 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 8-(2-Methyl-1H-imidazol-1-yl)-7-trifluoromethyl[1,2,4]triazolo[4,3-a]quinoxaline-1,4(2H ,5H)-dione | 0.7 g, 75% | CC=1N(C=CN1)C1=C(C=C2NC(C=3N(C2=C1)C(NN3)=O)=O)C(F)(F)F | C14H9F3N6O2
